US04390616
A mixture of 43.8 g (0.2 mol) of phenyl-β-naphthylamine, 46.8 g (0.2 mol) of m-iodoanisol, 27.6 g (0.2 mol) of anhydrous potassium carbonate, 2 g of copper powder and 300 ml of nitrobenzene was heated under reflux for 15 hours. The inorganic substances were filtered off and the nitrobenzene was distilled off. The residue obtained was then processed by column chromatography to obtain 43.8 g of phenyl-β-naphthyl-3-methoxyphenylamine.

reactant | phenyl-β-naphthylamine | 0.2 mol, 43.8 g | C1(=CC=CC=C1)NC1=CC2=CC=CC=C2C=C1 | C16H13N
reactant | m-iodoanisol | 0.2 mol, 46.8 g | IC=1C=C(C=CC1)OC | C7H7IO
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 2 g | [Cu] | Cu
solvent | nitrobenzene | 300 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | phenyl-β-naphthyl-3-methoxyphenylamine | 43.8 g | C1(=CC=CC=C1)N(C1=CC(=CC=C1)OC)C1=CC2=CC=CC=C2C=C1 | C23H19NO
